US08049016B2
Synthesis of 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as an off-white solid in 62% yield: mp 144-145° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 8.57-8.52 (m, 2H), 8.45 (d, J=3.8 Hz, 1H), 7.70 (ddd, J=7.8, 7.8, 1.8 Hz, 1H), 7.35 (dd, J=7.8, 4.8 Hz, 1H), 5.85-5.72 (m, 1H), 5.15-5.01 (m, 2H), 4.39 (d, J=5.8 Hz, 2H), 3.98 (d, J=9.0, 7.1 Hz, 2H), 3.59-3.54 (m, 2H), 3.31 (t, J=7.0 Hz, 2H), 2.47 (s, 3H), 2.32-2.25 (m, 2H); 13C NMR (75 MHz, DMSO-d6) 8161.9, 157.4, 154.9, 151.2, 148.8, 148.0, 135.5, 135.1, 135.1, 123.4, 117.3, 116.8, 42.4, 41.9, 41.6, 40.4, 31.1, 17.1; MS (ES+) m/z 372.1 (M+1).

reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(CC=C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 62% yield | C(CC=C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C18H21N5O2S
